US07812197B2
4-(4-Chloro-1,2-diphenyl-but-1-enyl)phenol (Compound II)
Zinc (15.0 g, 0.23 mol) and tetrahydrofuran (THF) (180 ml) was added to the reaction vessel and cooled to −10° C. Titan tetrachloride was added dropwise to the mixture (21.6 g, 0.114 mol) at about −10° C. After the addition was completed the mixture was refluxed for two hours. Then the mixture was cooled to 40° C. and 4-hydroxybenzophenone (7.68 g, 0.039 mol) and 3-chloropropiophenone (6.48 g, 0.039 mol) dissolved in THF (75 ml) were added to the mixture. Refluxing was continued for additional 3.5 hours. The cooled reaction mixture was poured in aqueous potassium carbonate solution (21 g K2CO3+210 ml water) and allowed to stand overnight at the ambient temperature. The mixture was filtered and the precipitate was washed with THF. The filtrate was evaporated to dryness. The residue was dissolved in ethyl acetate and washed with water. Ethyl acetate phase was evaporated to dryness and the residue was crystallized first from methanol-water (8:2) and then from methanol-water (9:1). Yield 5.4 g.

reactant | 4-hydroxybenzophenone | 0.039 mol, 7.68 g | OC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C13H10O2
reactant | 3-chloropropiophenone | 0.039 mol, 6.48 g | ClCCC(=O)C1=CC=CC=C1 | C9H9ClO
solvent | THF | 75 ml | O1CCCC1 | C4H8O
solvent | potassium carbonate | 210 ml, 21 g | C([O-])([O-])=O.[K+].[K+]
catalyst | Zinc | 0.23 mol, 15.0 g | [Zn] | Zn
solvent | tetrahydrofuran | 180 ml | O1CCCC1 | C4H8O
product | 4-(4-Chloro-1,2-diphenyl-but-1-enyl)phenol | ClCCC(=C(C1=CC=CC=C1)C1=CC=C(C=C1)O)C1=CC=CC=C1 | C22H19ClO
